US03992535
4-Hydroxy-2-methyl-N-(2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
4-Hydroxy-2-methyl-N-(5-methyl-3-isoxazolyl)-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 235° C, from 2-methyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine- 3-carboxylic acid chloride-1,1-dioxide and 3-amino-5-methylisoxazole.

reactant | 4-Hydroxy-2-methyl-N-(5-methyl-3-isoxazolyl)-2H-naphtho [2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=NOC(=C1)C | C18H15N3O5S
reactant | 2-methyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine- 3-carboxylic acid chloride-1,1-dioxide | CN1S(C2=C(C(=C1C(=O)Cl)N1CCCC1)C=CC1=CC=CC=C12)(=O)=O | C18H17ClN2O3S
reactant | 3-amino-5-methylisoxazole | NC1=NOC(=C1)C | C4H6N2O
product | 4-Hydroxy-2-methyl-N-(2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC=CN1 | C17H13N3O4S2
